US05541343
4-(5-Aminopentyl)phenol-hydrochloride
20.8 g of 4-(5-aminopentyl)anisole are heated with 350 ml of semiconcentrated hydrochloric acid in a glass bomb for 10 hours to 180° C. The solution is concentrated by evaporation in vacuo, the residue is dissolved in ethanol and treated with activated charcoal. The residue remaining after evaporation is used further as a crude product.

reactant | 4-(5-aminopentyl)anisole | 20.8 g | NCCCCCC1=CC=C(C=C1)OC | C12H19NO
reactant | hydrochloric acid | 350 ml | Cl | ClH
product | 4-(5-Aminopentyl)phenol-hydrochloride | Cl.NCCCCCC1=CC=C(C=C1)O | InChI=1S/C11H17NO.ClH/c12-9-3-1-2-4-10-5-7-11(13)8-6-10;/h5-8,13H,1-4,9,12H2;1H
